US04988723
A mixture of trans-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.62 g) and acetic anhydride (0.47 ml) in dry pyridine (3.1 ml) was stirred at room temperature for 3 days. The mixture was diluted with ethyl acetate (30 ml) and washed with 5% hydrochloric acid (20 ml×2), brine (20 ml), saturated aqueous sodium bicarbonate (20 ml) and brine (20 ml), successively. The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was subjected to column chromatography on silica gel (50 g) and eluted with a mixture of chloroform and methanol (50:1). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from a mixture of dichloromethane and n-hexane to give trans-3-acetoxy-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.44 g).

reactant | trans-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.62 g | C(#N)N=C1N(CCN1)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C16H17N5O2
reactant | acetic anhydride | 0.47 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3.1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | trans-3-acetoxy-4-(2-cyanoiminoimidazolidin-1-yl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.44 g | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(NCC1)=NC#N)C=C(C=C2)C#N)(C)C | C18H19N5O3
